US08247403B2
(2) 9-(2-fluorophenyl)-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride
A mixture of tert-butyl 9-(2-fluorophenyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (150 mg, 0.437 mmol), ethyl acetate (1 ml) and 4N hydrogen chloride-ethyl acetate solution (4 ml) was stirred for 1 hr at room temperature, and the solvent was evaporated under reduced pressure. The residue was recrystallized from a mixed solvent of methanol and ether to give the desired product (103 mg, 84.4%) as a solid.

reactant | tert-butyl 9-(2-fluorophenyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.437 mmol, 150 mg | FC1=C(C=CC=C1)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C20H22FNO3
reactant | hydrogen chloride-ethyl acetate | 4N, 4 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 9-(2-fluorophenyl)-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride | 103 mg, 84.4% | Cl.FC1=C(C=CC=C1)C1=CC=CC=2CNCCOC21 | InChI=1S/C15H14FNO.ClH/c16-14-7-2-1-5-12(14)13-6-3-4-11-10-17-8-9-18-15(11)13;/h1-7,17H,8-10H2;1H
